US08076325B2
Step 1: 3-Hydroxybicyclo[4.2.0]octa-1,3,5-triene-7-carbonitrile
68.7 g (431.6 mmol) of 3-methoxybicyclo[4.2.0]octa-1,3,5-triene-7-carbonitrile dissolved in 1500 mL of dichloromethane are brought to 0° C. There are then added, dropwise, over 1 hour 15 minutes, 863 mL of a 1M solution of boron tribromide in dichloromethane (863 mmol/2 eq.). The mixture is then allowed to come back up to ambient temperature overnight. The mixture is brought back to about 0° C. and is poured onto 1 kg of ice. Stirring is carried out for 30 minutes at ambient temperature, the phases are separated and the aqueous phase is extracted again twice with 500 mL of dichloromethane. The combined organic phases are washed with 600 mL of water and then dried over magnesium sulphate. After filtration and concentration, the desired product is obtained.

reactant | 3-methoxybicyclo[4.2.0]octa-1,3,5-triene-7-carbonitrile | 431.6 mmol, 68.7 g | COC=1C=C2CC(C2=CC1)C#N | C10H9NO
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 1500 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 863 mmol, 2 eq. | ClCCl | CH2Cl2
product | 3-Hydroxybicyclo[4.2.0]octa-1,3,5-triene-7-carbonitrile | OC=1C=C2CC(C2=CC1)C#N | C9H7NO
